US05545652
(2R,3S)-2-(2-Fluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane (1.5 g), 2.66 g of 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone and 0.386 g of 60% sodium hydride in oil were added to 25 ml of N,N-dimethylformamide. The mixture was stirred at 80° C. for 20 hours. After cooling, the reaction mixture was added to 100 ml of water and extracted with ethyl acetate (50 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/2) to give 0.27 g of 1-[(1R,2R)-2-(2-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone as a colorless powder.

reactant | (2R,3S)-2-(2-Fluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane | 1.5 g | FC1=C(C=CC=C1)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H12FN3O
reactant | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 2.66 g | FC(C(F)F)(OC1=CC=C(C=C1)N1C(NC=C1)=O)F | C11H8F4N2O2
reactant | sodium hydride | 0.386 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-[(1R,2R)-2-(2-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 0.27 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)(CN1N=CN=C1)O | C23H20F5N5O3
